US08232403B2
To a mixture of NaH (60% in oil, 60.9 g, 1.52 mol) in DMF (1500 mL) is carefully added crude (1,4-dioxa-spiro[4.5]dec-8-yl)methanol (150 g) in DMF (50 mL) at 10° C. under argon atmosphere and the mixture is stirred for 1 hour at the same temperature. To the mixture is added benzyl bromide (181 mL) 10° C., and stirring is continued for 3 hours at room temperature. After addition of H2O (70 mL) over 10 min, the mixture is poured into the mixture of H2O (4500 mL) and EtOAc (2000 mL). The water layer is extracted with EtOAc and the combined organic layer is washed with brine, dried over magnesium sulfate, and concentrated under reduced pressure to afford crude 8-benzyloxymethyl-1,4-dioxa-spiro[4.5]decane as a yellow oil. The crude product is used without further purification.

reactant | NaH | 1.52 mol, 60.9 g | [H-].[Na+]
reactant | (1,4-dioxa-spiro[4.5]dec-8-yl)methanol | 150 g | O1CCOC12CCC(CC2)CO | C9H16O3
reactant | benzyl bromide | 181 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | H2O | 70 mL | O | H2O
reactant | H2O | 4500 mL | O | H2O
solvent | DMF | 1500 mL | CN(C)C=O | C3H7NO
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 2000 mL | CCOC(=O)C | C4H8O2
product | 8-benzyloxymethyl-1,4-dioxa-spiro[4.5]decane | C(C1=CC=CC=C1)OCC1CCC2(OCCO2)CC1 | C16H22O3
